US05932601
In substantially the same manner as in Working Example 34, ethyl 4-(3-benzyloxy-4-methoxyphenyl)-2-hydroxybutanoate was reacted with potassium cyanate (KCNO) to obtain 5-[2-(3-benzyloxy-4-methoxyphenyl)ethyl]-2,4-oxazolidinedione as an oily product.

reactant | ethyl 4-(3-benzyloxy-4-methoxyphenyl)-2-hydroxybutanoate | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)CCC(C(=O)OCC)O | C20H24O5
reactant | potassium cyanate | [O-]C#N.[K+]
product | 5-[2-(3-benzyloxy-4-methoxyphenyl)ethyl]-2,4-oxazolidinedione | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)CCC1C(NC(O1)=O)=O | C19H19NO5
